* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0006967036312310215
Fd1_1 0 s1 V1 -0.034835181561551076
Gr1_1_1 0 s1 x1_a1 0 584262752.4072624
Gr2_re_1_1 0 s1 x2_re_a1 0 -30051720.05977223
Gr2_im_1_1 0 s1 x2_im_a1 0 33833066.55091742
Gd1_2 0 s1 p2 0 -0.0005328226212664768
Fd1_2 0 s1 V2 -0.02664113106332384
Gr1_1_2 0 s1 x1_a2 0 339310240.7492276
Gr2_re_1_2 0 s1 x2_re_a2 0 7863671.674564479
Gr2_im_1_2 0 s1 x2_im_a2 0 44014997.479381
Gd1_3 0 s1 p3 0 0.00026285332920149626
Fd1_3 0 s1 V3 0.013142666460074814
Gr1_1_3 0 s1 x1_a3 0 33057417.89804521
Gr2_re_1_3 0 s1 x2_re_a3 0 -8179165.107458015
Gr2_im_1_3 0 s1 x2_im_a3 0 -16984952.273691233
Gd1_4 0 s1 p4 0 0.0001378486728693149
Fd1_4 0 s1 V4 0.006892433643465745
Gr1_1_4 0 s1 x1_a4 0 20153780.987784766
Gr2_re_1_4 0 s1 x2_re_a4 0 -3301298.086432426
Gr2_im_1_4 0 s1 x2_im_a4 0 -6225355.05742391
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.2981548844926065e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 6.192846412999865e-09
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 64733898.57084711
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -64733898.57084711
Rp2_im_im_a1 0 x2_im_a1 6.192846412999865e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0005326498085809954
Fd2_1 0 s2 V1 -0.02663249042904977
Gr1_2_1 0 s2 x1_a1 0 339307898.8931699
Gr2_re_2_1 0 s2 x2_re_a1 0 7863728.608721615
Gr2_im_2_1 0 s2 x2_im_a1 0 44015338.351971075
Gd2_2 0 s2 p2 0 -0.00015111115549137688
Fd2_2 0 s2 V2 -0.007555557774568845
Gr1_2_2 0 s2 x1_a2 0 236050097.81485647
Gr2_re_2_2 0 s2 x2_re_a2 0 -39077470.01074814
Gr2_im_2_2 0 s2 x2_im_a2 0 -13724758.713110017
Gd2_3 0 s2 p3 0 0.00013793058348167755
Fd2_3 0 s2 V3 0.006896529174083878
Gr1_2_3 0 s2 x1_a3 0 20236407.217797626
Gr2_re_2_3 0 s2 x2_re_a3 0 -3308346.0981789446
Gr2_im_2_3 0 s2 x2_im_a3 0 -6236382.378841618
Gd2_4 0 s2 p4 0 3.550107436837338e-05
Fd2_4 0 s2 V4 0.0017750537184186694
Gr1_2_4 0 s2 x1_a4 0 69174944.51238813
Gr2_re_2_4 0 s2 x2_re_a4 0 -3213452.1914102747
Gr2_im_2_4 0 s2 x2_im_a4 0 -2564707.023765095
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.2981548844926065e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 6.192846412999865e-09
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 64733898.57084711
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -64733898.57084711
Rp2_im_im_a2 0 x2_im_a2 6.192846412999865e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 0.00026286496454146034
Fd3_1 0 s3 V1 0.013143248227073018
Gr1_3_1 0 s3 x1_a1 0 33057568.076248
Gr2_re_3_1 0 s3 x2_re_a1 0 -8179166.882762571
Gr2_im_3_1 0 s3 x2_im_a1 0 -16984939.01728219
Gd3_2 0 s3 p2 0 0.00013794508774491777
Fd3_2 0 s3 V2 0.006897254387245888
Gr1_3_2 0 s3 x1_a2 0 20236349.330979466
Gr2_re_3_2 0 s3 x2_re_a2 0 -3308336.2420723327
Gr2_im_3_2 0 s3 x2_im_a2 0 -6236251.433758377
Gd3_3 0 s3 p3 0 -0.0007000630800263298
Fd3_3 0 s3 V3 -0.03500315400131649
Gr1_3_3 0 s3 x1_a3 0 584512011.964896
Gr2_re_3_3 0 s3 x2_re_a3 0 -29982319.307323694
Gr2_im_3_3 0 s3 x2_im_a3 0 34014296.15935939
Gd3_4 0 s3 p4 0 -0.0005343055656854631
Fd3_4 0 s3 V4 -0.02671527828427316
Gr1_3_4 0 s3 x1_a4 0 338853935.69061583
Gr2_re_3_4 0 s3 x2_re_a4 0 7887813.907244212
Gr2_im_3_4 0 s3 x2_im_a4 0 44035101.79383974
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 3.2981548844926065e-10
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 6.192846412999865e-09
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 64733898.57084711
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -64733898.57084711
Rp2_im_im_a3 0 x2_im_a3 6.192846412999865e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 0.00013784342942141053
Fd4_1 0 s4 V1 0.006892171471070526
Gr1_4_1 0 s4 x1_a1 0 20154586.68705111
Gr2_re_4_1 0 s4 x2_re_a1 0 -3301346.287175526
Gr2_im_4_1 0 s4 x2_im_a1 0 -6225542.695723372
Gd4_2 0 s4 p2 0 3.572102240525169e-05
Fd4_2 0 s4 V2 0.0017860511202625847
Gr1_4_2 0 s4 x1_a2 0 69175918.88070107
Gr2_re_4_2 0 s4 x2_re_a2 0 -3213511.6328493957
Gr2_im_4_2 0 s4 x2_im_a2 0 -2564884.307456073
Gd4_3 0 s4 p3 0 -0.0005341599456825057
Fd4_3 0 s4 V3 -0.02670799728412529
Gr1_4_3 0 s4 x1_a3 0 338853648.3218853
Gr2_re_4_3 0 s4 x2_re_a3 0 7887696.89300252
Gr2_im_4_3 0 s4 x2_im_a3 0 44035145.65080119
Gd4_4 0 s4 p4 0 -0.00015159924788341606
Fd4_4 0 s4 V4 -0.007579962394170804
Gr1_4_4 0 s4 x1_a4 0 235382636.61720365
Gr2_re_4_4 0 s4 x2_re_a4 0 -39072372.00069714
Gr2_im_4_4 0 s4 x2_im_a4 0 -13765116.544164646
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 3.2981548844926065e-10
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 6.192846412999865e-09
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 64733898.57084711
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -64733898.57084711
Rp2_im_im_a4 0 x2_im_a4 6.192846412999865e-09
.ENDS s_equivalent
