* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.008632650894688627
Fd1_1 0 s1 V1 -0.4316325447344314
Gr1_1_1 0 s1 x1_a1 0 85426208156.3713
Gr2_re_1_1 0 s1 x2_re_a1 0 1573324529.6223006
Gr2_im_1_1 0 s1 x2_im_a1 0 2778386357.180357
Gr3_re_1_1 0 s1 x3_re_a1 0 -39691196.14160237
Gr3_im_1_1 0 s1 x3_im_a1 0 151824609.60634848
Gr4_re_1_1 0 s1 x4_re_a1 0 -1014061.574352756
Gr4_im_1_1 0 s1 x4_im_a1 0 -397476.5055286884
Gr5_1_1 0 s1 x5_a1 0 -679627.0516659042
Gd1_2 0 s1 p2 0 -2.9093454147270477e-05
Fd1_2 0 s1 V2 -0.0014546727073635238
Gr1_1_2 0 s1 x1_a2 0 368510079.1923311
Gr2_re_1_2 0 s1 x2_re_a2 0 -4345735.800154529
Gr2_im_1_2 0 s1 x2_im_a2 0 8303206.911969103
Gr3_re_1_2 0 s1 x3_re_a2 0 -5164148.012480475
Gr3_im_1_2 0 s1 x3_im_a2 0 12317747.113762952
Gr4_re_1_2 0 s1 x4_re_a2 0 216817.34397552846
Gr4_im_1_2 0 s1 x4_im_a2 0 -343898.4434422021
Gr5_1_2 0 s1 x5_a2 0 -84960.2715240941
Gd1_3 0 s1 p3 0 6.264351075589834e-05
Fd1_3 0 s1 V3 0.003132175537794917
Gr1_1_3 0 s1 x1_a3 0 -662346461.2040337
Gr2_re_1_3 0 s1 x2_re_a3 0 1156581.272382009
Gr2_im_1_3 0 s1 x2_im_a3 0 -8414098.755835507
Gr3_re_1_3 0 s1 x3_re_a3 0 792991.0418273633
Gr3_im_1_3 0 s1 x3_im_a3 0 328600.29340170877
Gr4_re_1_3 0 s1 x4_re_a3 0 7624865.719870391
Gr4_im_1_3 0 s1 x4_im_a3 0 11758193.27945514
Gr5_1_3 0 s1 x5_a3 0 12527417.32391529
Gd1_4 0 s1 p4 0 1.0634711475493729e-07
Fd1_4 0 s1 V4 5.3173557377468645e-06
Gr1_1_4 0 s1 x1_a4 0 -1246295.087281045
Gr2_re_1_4 0 s1 x2_re_a4 0 5634.955341487732
Gr2_im_1_4 0 s1 x2_im_a4 0 -18598.464469446237
Gr3_re_1_4 0 s1 x3_re_a4 0 1876.2279064090912
Gr3_im_1_4 0 s1 x3_im_a4 0 1224.7677294435196
Gr4_re_1_4 0 s1 x4_re_a4 0 42230.843701468795
Gr4_im_1_4 0 s1 x4_im_a4 0 61091.96388949388
Gr5_1_4 0 s1 x5_a4 0 9835.500364315223
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.84343307830753e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.0489021917413275e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 264516432628.63052
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -264516432628.63052
Rp2_im_im_a1 0 x2_im_a1 5.0489021917413275e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 6.977101953778856e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 98143305208.17145
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -98143305208.17145
Rp3_im_im_a1 0 x3_im_a1 6.977101953778856e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.309482940403992e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 372475554.7809453
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -372475554.7809453
Rp4_im_im_a1 0 x4_im_a1 2.309482940403992e-08
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.7172190419835617e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -2.901363559392278e-05
Fd2_1 0 s2 V1 -0.0014506817796961391
Gr1_2_1 0 s2 x1_a1 0 367513964.14617515
Gr2_re_2_1 0 s2 x2_re_a1 0 -4350336.66410025
Gr2_im_2_1 0 s2 x2_im_a1 0 8321896.083750647
Gr3_re_2_1 0 s2 x3_re_a1 0 -5140659.828119678
Gr3_im_2_1 0 s2 x3_im_a1 0 12312232.852265747
Gr4_re_2_1 0 s2 x4_re_a1 0 216882.35540805466
Gr4_im_2_1 0 s2 x4_im_a1 0 -343960.4600387769
Gr5_2_1 0 s2 x5_a1 0 -85428.38482054588
Gd2_2 0 s2 p2 0 -0.008823798333482517
Fd2_2 0 s2 V2 -0.4411899166741258
Gr1_2_2 0 s2 x1_a2 0 88722725935.2929
Gr2_re_2_2 0 s2 x2_re_a2 0 1381785260.5174246
Gr2_im_2_2 0 s2 x2_im_a2 0 2892904199.215042
Gr3_re_2_2 0 s2 x3_re_a2 0 -64072629.3959307
Gr3_im_2_2 0 s2 x3_im_a2 0 164521825.57839122
Gr4_re_2_2 0 s2 x4_re_a2 0 -1136339.3430720714
Gr4_im_2_2 0 s2 x4_im_a2 0 -374846.6718002483
Gr5_2_2 0 s2 x5_a2 0 -740667.7852240592
Gd2_3 0 s2 p3 0 1.496116355917415e-07
Fd2_3 0 s2 V3 7.480581779587076e-06
Gr1_2_3 0 s2 x1_a3 0 -1638368.721627764
Gr2_re_2_3 0 s2 x2_re_a3 0 8189.589294673242
Gr2_im_2_3 0 s2 x2_im_a3 0 -16954.04435535564
Gr3_re_2_3 0 s2 x3_re_a3 0 2120.515416339581
Gr3_im_2_3 0 s2 x3_im_a3 0 1676.545563063624
Gr4_re_2_3 0 s2 x4_re_a3 0 46058.11488475228
Gr4_im_2_3 0 s2 x4_im_a3 0 61141.701925637586
Gr5_2_3 0 s2 x5_a3 0 11570.684912743749
Gd2_4 0 s2 p4 0 6.265874517220504e-05
Fd2_4 0 s2 V4 0.0031329372586102523
Gr1_2_4 0 s2 x1_a4 0 -662642066.9374471
Gr2_re_2_4 0 s2 x2_re_a4 0 1159098.35354928
Gr2_im_2_4 0 s2 x2_im_a4 0 -8403745.052266851
Gr3_re_2_4 0 s2 x3_re_a4 0 794618.57834451
Gr3_im_2_4 0 s2 x3_im_a4 0 328199.00754399376
Gr4_re_2_4 0 s2 x4_re_a4 0 7634807.461023603
Gr4_im_2_4 0 s2 x4_im_a4 0 11749613.140876478
Gr5_2_4 0 s2 x5_a4 0 12525701.809029996
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.84343307830753e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.0489021917413275e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 264516432628.63052
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -264516432628.63052
Rp2_im_im_a2 0 x2_im_a2 5.0489021917413275e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 6.977101953778856e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 98143305208.17145
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -98143305208.17145
Rp3_im_im_a2 0 x3_im_a2 6.977101953778856e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.309482940403992e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 372475554.7809453
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -372475554.7809453
Rp4_im_im_a2 0 x4_im_a2 2.309482940403992e-08
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.7172190419835617e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 6.260298446501269e-05
Fd3_1 0 s3 V1 0.0031301492232506346
Gr1_3_1 0 s3 x1_a1 0 -662276062.5289438
Gr2_re_3_1 0 s3 x2_re_a1 0 1170276.1276616517
Gr2_im_3_1 0 s3 x2_im_a1 0 -8409075.420149464
Gr3_re_3_1 0 s3 x3_re_a1 0 793835.562827357
Gr3_im_3_1 0 s3 x3_im_a1 0 329176.78985698643
Gr4_re_3_1 0 s3 x4_re_a1 0 7623269.2321331855
Gr4_im_3_1 0 s3 x4_im_a1 0 11758380.42444561
Gr5_3_1 0 s3 x5_a1 0 12527506.97827903
Gd3_2 0 s3 p2 0 1.0257717454186436e-07
Fd3_2 0 s3 V2 5.128858727093218e-06
Gr1_3_2 0 s3 x1_a2 0 -1242034.6545449372
Gr2_re_3_2 0 s3 x2_re_a2 0 14544.271929428854
Gr2_im_3_2 0 s3 x2_im_a2 0 -22540.529425817957
Gr3_re_3_2 0 s3 x3_re_a2 0 1481.393250616029
Gr3_im_3_2 0 s3 x3_im_a2 0 1881.8100634942953
Gr4_re_3_2 0 s3 x4_re_a2 0 46485.43566860933
Gr4_im_3_2 0 s3 x4_im_a2 0 61939.70714737666
Gr5_3_2 0 s3 x5_a2 0 11229.085458373987
Gd3_3 0 s3 p3 0 0.0024467090600248753
Fd3_3 0 s3 V3 0.12233545300124378
Gr1_3_3 0 s3 x1_a3 0 -20639971246.571636
Gr2_re_3_3 0 s3 x2_re_a3 0 -284043465.45735484
Gr2_im_3_3 0 s3 x2_im_a3 0 -107275672.57587779
Gr3_re_3_3 0 s3 x3_re_a3 0 10438538.708630381
Gr3_im_3_3 0 s3 x3_im_a3 0 -3166597.6510194493
Gr4_re_3_3 0 s3 x4_re_a3 0 221549.97742965192
Gr4_im_3_3 0 s3 x4_im_a3 0 455713.98361511197
Gr5_3_3 0 s3 x5_a3 0 357420.98124418786
Gd3_4 0 s3 p4 0 9.671180947208454e-07
Fd3_4 0 s3 V4 4.8355904736042276e-05
Gr1_3_4 0 s3 x1_a4 0 -13001440.213032229
Gr2_re_3_4 0 s3 x2_re_a4 0 131488.78036953605
Gr2_im_3_4 0 s3 x2_im_a4 0 -272975.81256249483
Gr3_re_3_4 0 s3 x3_re_a4 0 23067.39064923837
Gr3_im_3_4 0 s3 x3_im_a4 0 17202.53848645351
Gr4_re_3_4 0 s3 x4_re_a4 0 361935.7872087781
Gr4_im_3_4 0 s3 x4_im_a4 0 31470.5442583518
Gr5_3_4 0 s3 x5_a4 0 13553.478681569472
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 1.84343307830753e-12
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 5.0489021917413275e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 264516432628.63052
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -264516432628.63052
Rp2_im_im_a3 0 x2_im_a3 5.0489021917413275e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 6.977101953778856e-10
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 98143305208.17145
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -98143305208.17145
Rp3_im_im_a3 0 x3_im_a3 6.977101953778856e-10
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 2.309482940403992e-08
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 372475554.7809453
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -372475554.7809453
Rp4_im_im_a3 0 x4_im_a3 2.309482940403992e-08
Cx5_a3 x5_a3 0 1.0
Gx5_a3 0 x5_a3 p3 0 0.07071067811865475
Fx5_a3 0 x5_a3 V3 3.5355339059327378
Rp5_a3 0 x5_a3 2.7172190419835617e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 1.360214142222381e-07
Fd4_1 0 s4 V1 6.801070711111904e-06
Gr1_4_1 0 s4 x1_a1 0 -1478575.4647898437
Gr2_re_4_1 0 s4 x2_re_a1 0 15524.49094112355
Gr2_im_4_1 0 s4 x2_im_a1 0 -13033.568690990693
Gr3_re_4_1 0 s4 x3_re_a1 0 1685.3537776599992
Gr3_im_4_1 0 s4 x3_im_a1 0 882.8363179609946
Gr4_re_4_1 0 s4 x4_re_a1 0 42623.87386990631
Gr4_im_4_1 0 s4 x4_im_a1 0 61917.28895381439
Gr5_4_1 0 s4 x5_a1 0 10473.001709470698
Gd4_2 0 s4 p2 0 6.254578759776258e-05
Fd4_2 0 s4 V2 0.0031272893798881293
Gr1_4_2 0 s4 x1_a2 0 -661824789.3735822
Gr2_re_4_2 0 s4 x2_re_a2 0 1153029.7892063637
Gr2_im_4_2 0 s4 x2_im_a2 0 -8407625.098888747
Gr3_re_4_2 0 s4 x3_re_a2 0 793403.6155703103
Gr3_im_4_2 0 s4 x3_im_a2 0 329741.88902971114
Gr4_re_4_2 0 s4 x4_re_a2 0 7634869.963271727
Gr4_im_4_2 0 s4 x4_im_a2 0 11748353.194459092
Gr5_4_2 0 s4 x5_a2 0 12525458.582556274
Gd4_3 0 s4 p3 0 9.251965536414551e-07
Fd4_3 0 s4 V3 4.625982768207276e-05
Gr1_4_3 0 s4 x1_a3 0 -12593792.668201828
Gr2_re_4_3 0 s4 x2_re_a3 0 146047.9544590239
Gr2_im_4_3 0 s4 x2_im_a3 0 -265225.257513245
Gr3_re_4_3 0 s4 x3_re_a3 0 23199.604261384608
Gr3_im_4_3 0 s4 x3_im_a3 0 16705.158707026272
Gr4_re_4_3 0 s4 x4_re_a3 0 361952.7117653793
Gr4_im_4_3 0 s4 x4_im_a3 0 31513.30634315929
Gr5_4_3 0 s4 x5_a3 0 13091.202146514861
Gd4_4 0 s4 p4 0 0.0023341874868024032
Fd4_4 0 s4 V4 0.11670937434012016
Gr1_4_4 0 s4 x1_a4 0 -18800202856.972797
Gr2_re_4_4 0 s4 x2_re_a4 0 -197654403.94915718
Gr2_im_4_4 0 s4 x2_im_a4 0 79856150.03283922
Gr3_re_4_4 0 s4 x3_re_a4 0 10869139.057385646
Gr3_im_4_4 0 s4 x3_im_a4 0 -2038355.623713321
Gr4_re_4_4 0 s4 x4_re_a4 0 159931.94976971642
Gr4_im_4_4 0 s4 x4_im_a4 0 467895.959360561
Gr5_4_4 0 s4 x5_a4 0 335282.29821546905
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 1.84343307830753e-12
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 5.0489021917413275e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 264516432628.63052
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -264516432628.63052
Rp2_im_im_a4 0 x2_im_a4 5.0489021917413275e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 6.977101953778856e-10
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 98143305208.17145
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -98143305208.17145
Rp3_im_im_a4 0 x3_im_a4 6.977101953778856e-10
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 2.309482940403992e-08
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 372475554.7809453
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -372475554.7809453
Rp4_im_im_a4 0 x4_im_a4 2.309482940403992e-08
Cx5_a4 x5_a4 0 1.0
Gx5_a4 0 x5_a4 p4 0 0.07071067811865475
Fx5_a4 0 x5_a4 V4 3.5355339059327378
Rp5_a4 0 x5_a4 2.7172190419835617e-08
.ENDS s_equivalent
